US07307094B2
N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-5-chloro-2-phenyl-benzoxazole-7-carboxamide was prepared from 5-chloro-2-phenyl-benzoxazole-7-carboxylic acid and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride using the method outlined in Step C of Example 7. This compound was obtained in 49% yield as a white solid: mp 199-201° C.; 1H NMR (300 MHz, CDCl3) δ 8.19 (dd, J=7.5, 2.1 Hz, 2H), 8.05 (d, J=2.1 Hz, 1H), 7.85 (d, J=2.1 Hz, 1H), 7.66-7.55 (m, 3H), 6.84 (d, J=7.8 Hz, 1H), 4.65-4.56 (m, 1H), 3.15 (d, J=10.5 Hz, 2H), 2.71-2.60 (m, 2H), 2.53 (s, 3H), 2.17-2.10 (m, 1H), 2.03 (d, J=6.6 Hz, 3H), 1.78 (br s, 1H), 1.60-1.52 (m, 1H), 1.41 (t, J=10.8 Hz, 2H), 1.16-1.10 (m, 2H); MS (ESI) m/z 410 [M+H]+.

reactant | 5-chloro-2-phenyl-benzoxazole-7-carboxylic acid | ClC=1C=C(C2=C(N=C(O2)C2=CC=CC=C2)C1)C(=O)O | C14H8ClNO3
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | Cl.Cl.NC1CC2CCCC(C1)N2C
product | N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-5-chloro-2-phenyl-benzoxazole-7-carboxamide | 49% yield | CN1C2CC(CC1CCC2)NC(=O)C2=CC(=CC=1N=C(OC12)C1=CC=CC=C1)Cl | C23H24ClN3O2
